data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-C_2-c1ccccc1_3-C#N_4-c1ccccc1_5-C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C)(c1ccccc1)=C(C#N)C(=O)C","S([H])c1ccccc1"],"products_smiles": ["S(c1ccccc1)C(C)(c1ccccc1)C(C#N)C(=O)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]c1ccccc1","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(c1ccccc1)C(C)(c1ccccc1)C(C#N)=C([O-])C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(c1ccccc1)C(C)(c1ccccc1)C(C#N)C(=O)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-213_1-C_2-C2CCCCC2_3-Br_4-C(=O)OC(C)(C)C","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(C)","C(C2CCCCC2)=C(Br)(C(=O)OC(C)(C)C)"],"products_smiles": ["C(C2CCCCC2)1OC1(Br)(C(=O)OC(C)(C)C)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(C)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(C)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(C2CCCCC2)1OC1(Br)(C(=O)OC(C)(C)C)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
